* c:\users\mamat\esim-workspace\cd4048bms_ic\cd4048bms_ic.cir

.include CD4048BMS.sub
x1 net-_u13-pad1_ net-_u10-pad2_ net-_u9-pad16_ net-_u9-pad15_ net-_u9-pad14_ net-_u9-pad13_ net-_u11-pad2_ gnd net-_u10-pad2_ net-_u11-pad2_ net-_u9-pad12_ net-_u9-pad11_ net-_u9-pad10_ net-_u9-pad9_ net-_u11-pad2_ net-_x1-pad16_ CD4048BMS
x2 out net-_u10-pad2_ net-_u14-pad16_ net-_u14-pad15_ net-_u14-pad14_ net-_u14-pad13_ net-_u11-pad2_ gnd net-_u11-pad2_ net-_u11-pad2_ net-_u14-pad12_ net-_u14-pad11_ net-_u14-pad10_ net-_u14-pad9_ net-_u13-pad2_ net-_x2-pad16_ CD4048BMS
v11  net-_x2-pad16_ gnd 5
v10  net-_x1-pad16_ gnd 5
v2  a1 gnd pulse(0 5 0.01n 0.01n 0.01n 10 50)
v3  b1 gnd pulse(0 5 0.01n 0.01n 0.01n 25 50)
v1  c1 gnd pulse(0 5 0.01n 0.01n 0.01n 10 15)
v4  d1 gnd pulse(0 5 0.01n 0.01n 0.01n 20 50)
v5  e1 gnd pulse(0 5 0.01n 0.01n 0.01n 5 50)
v6  f1 gnd pulse(0 5 0.01n 0.01n 0.01n 10 30)
v7  g1 gnd pulse(0 5 0.01n 0.01n 0.01n 4 50)
v8  h1 gnd pulse(0 5 0.01n 0.01n 0.01n 10 50)
* u9  a1 b1 c1 d1 e1 f1 g1 h1 net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ adc_bridge_8
v16  a2 gnd pulse(0 5 0.01n 0.01n 0.01n 10 50)
v17  b2 gnd pulse(0 5 0.01n 0.01n 0.01n 30 50)
v19  c2 gnd pulse(0 5 0.01n 0.01n 0.01n 10 50)
v18  d2 gnd pulse(0 5 0.01n 0.01n 0.01n 10 50)
v12  e2 gnd pulse(0 5 0.01n 0.01n 0.01n 20 50)
v13  f2 gnd pulse(0 5 0.01n 0.01n 0.01n 30 50)
v14  g2 gnd pulse(0 5 0.01n 0.01n 0.01n 5 30)
v15  h2 gnd pulse(0 5 0.01n 0.01n 0.01n 10 30)
* u14  a2 b2 c2 d2 e2 f2 g2 h2 net-_u14-pad9_ net-_u14-pad10_ net-_u14-pad11_ net-_u14-pad12_ net-_u14-pad13_ net-_u14-pad14_ net-_u14-pad15_ net-_u14-pad16_ adc_bridge_8
* u13  net-_u13-pad1_ net-_u13-pad2_ adc_bridge_1
v9  net-_u10-pad1_ gnd 5
* u11  gnd net-_u11-pad2_ adc_bridge_1
* u10  net-_u10-pad1_ net-_u10-pad2_ adc_bridge_1
* u1  a1 plot_v1
* u2  b1 plot_v1
* u3  c1 plot_v1
* u4  d1 plot_v1
* u5  e1 plot_v1
* u6  f1 plot_v1
* u7  g1 plot_v1
* u8  h1 plot_v1
* u18  a2 plot_v1
* u19  b2 plot_v1
* u20  c2 plot_v1
* u22  d2 plot_v1
* u21  e2 plot_v1
* u17  f2 plot_v1
* u15  g2 plot_v1
* u16  h2 plot_v1
* u12  out plot_v1
a1 [a1 b1 c1 d1 e1 f1 g1 h1 ] [net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ ] u9
a2 [a2 b2 c2 d2 e2 f2 g2 h2 ] [net-_u14-pad9_ net-_u14-pad10_ net-_u14-pad11_ net-_u14-pad12_ net-_u14-pad13_ net-_u14-pad14_ net-_u14-pad15_ net-_u14-pad16_ ] u14
a3 [net-_u13-pad1_ ] [net-_u13-pad2_ ] u13
a4 [gnd ] [net-_u11-pad2_ ] u11
a5 [net-_u10-pad1_ ] [net-_u10-pad2_ ] u10
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.5e-00 50e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 2
plot v(out) v(h2)+6 v(g2)+12 v(f2)+18 v(e2)+24 v(d2)+30 v(c2)+36 v(b2)+42 v(a2)+48 v(h1)+54 v(g1)+60 v(f1)+66 v(e1)+72 v(d1)+78 v(c1)+84 v(b1)+90 v(a1)+96
.endc
.end
