* c:\users\mamat\esim-workspace\sn74100_bistable_latch\sn74100_bistable_latch.cir

.include SN74100.sub
* u4  net-_u4-pad1_ out dac_bridge_1
* u3  d en net-_u3-pad3_ net-_u3-pad4_ adc_bridge_2
v1  d gnd pulse(0 5 0.01n 0.01n 0.01n 38n 90n)
v2  en gnd pulse(0 5 0.01n 0.01n 0.01n 30n 70n)
* u1  d plot_v1
* u2  en plot_v1
* u5  out plot_v1
x1 ? ? ? ? ? ? gnd ? ? ? ? ? ? ? ? ? ? ? ? net-_u4-pad1_ net-_u3-pad3_ ? net-_u3-pad4_ net-_x1-pad24_ SN74100
v3  net-_x1-pad24_ gnd 5
a1 [net-_u4-pad1_ ] [out ] u4
a2 [d en ] [net-_u3-pad3_ net-_u3-pad4_ ] u3
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-09 300e-09 20e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 3
plot v(out) v(en)+6 v(d)+12
.endc
.end
