* c:\users\mamat\esim-workspace\sn74120_pulse_synchronizer\sn74120_pulse_synchronizer.cir

.include SN74120.sub
v4  c gnd pulse(0 5 0.01n 0.01n 0.01n 50n 100n)
* u7  y_bar plot_v1
* u6  y plot_v1
* u1  r_bar plot_v1
* u2  s1_bar plot_v1
* u3  s2_bar plot_v1
* u4  c plot_v1
* u5  m plot_v1
* u8  r_bar s1_bar s2_bar c m net-_u8-pad6_ net-_u8-pad7_ net-_u8-pad8_ net-_u8-pad9_ net-_u8-pad10_ adc_bridge_5
* u9  net-_u9-pad1_ net-_u9-pad2_ y y_bar dac_bridge_2
v5  m gnd pulse(0 5 0.01n 0.01n 0.01n 5n 3u)
v3  s2_bar gnd pulse(0 5 0.01n 0.01n 0.01n 300n 600n)
v1  r_bar gnd pulse(0 5 0.01n 0.01n 0.01n 1.2u 2.4u)
v2  s1_bar gnd pulse(0 5 0.01n 0.01n 0.01n 600n 1.2u)
x1 net-_u8-pad10_ net-_u8-pad7_ net-_u8-pad8_ net-_u8-pad6_ net-_u8-pad9_ net-_u9-pad1_ net-_u9-pad2_ net-_u10-pad2_ ? ? ? ? ? ? ? net-_u11-pad2_ SN74120
v6  net-_u11-pad1_ gnd 5
* u11  net-_u11-pad1_ net-_u11-pad2_ adc_bridge_1
* u10  gnd net-_u10-pad2_ adc_bridge_1
a1 [r_bar s1_bar s2_bar c m ] [net-_u8-pad6_ net-_u8-pad7_ net-_u8-pad8_ net-_u8-pad9_ net-_u8-pad10_ ] u8
a2 [net-_u9-pad1_ net-_u9-pad2_ ] [y y_bar ] u9
a3 [net-_u11-pad1_ ] [net-_u11-pad2_ ] u11
a4 [gnd ] [net-_u10-pad2_ ] u10
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-09 3e-06 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 3
plot v(y_bar) v(y)+6 v(r_bar)+12 v(s2_bar)+18 v(s1_bar)+24 v(m)+30 v(c)+36 
.endc
.end
