* c:\users\mamat\esim-workspace\aoi_sn74s64\aoi_sn74s64.cir

.include SN74S64.sub
v3  f gnd pulse(0 5 0.001n 0.001n 0.001n 2 4)
v4  g gnd pulse(0 5 0.001n 0.001n 0.001n 4 8)
v5  h gnd pulse(0 5 0.001n 0.001n 0.001n 8 16)
v2  e gnd pulse(0 5 0.001n 0.001n 0.001n 16 32)
v1  a gnd pulse(0 5 0.001n 0.001n 0.001n 5 10)
v6  i gnd pulse(0 5 0.001n 0.001n 0.001n 10 20)
v9  c gnd pulse(0 5 0.001n 0.001n 0.001n 15 30)
v10  b gnd pulse(0 5 0.001n 0.001n 0.001n 10 30)
v11  k gnd pulse(0 5 0.001n 0.001n 0.001n 5 15)
v12  j gnd pulse(0 5 0.001n 0.001n 0.001n 20 30)
v8  d gnd pulse(0 5 0.001n 0.001n 0.001n 4 10)
* u8  d plot_v1
* u9  c plot_v1
* u10  b plot_v1
* u11  k plot_v1
* u12  j plot_v1
* u6  i plot_v1
* u1  h plot_v1
* u4  g plot_v1
* u3  f plot_v1
* u2  e plot_v1
* u5  a plot_v1
* u7  y plot_v1
x1 a e f g h i gnd y j k b c d net-_x1-pad14_ SN74S64
v7  net-_x1-pad14_ gnd 5
.tran 50e-03 20e-00 5e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth =  3
plot v(k)+66 v(j)+60 v(i)+54 v(h)+48 v(g)+42 v(f)+36 v(e)+30 v(d)+24 v(c)+18 v(b)+12 v(a)+6 v(y)
.endc
.end
